US04186135
145 g of methyl-7-sulfamoyl-1,4-benzodioxane-5-carboxylate, 48 g of water and 89 g of 1-allyl-2-aminomethylpyrrolidine were introduced into a balloon flask provided with a condenser. The mixture was heated on a water bath until a test sample was soluble in dilute acids and then 1 liter of water was added. The precipitated carboxamide was redissolved by acetate formation. The solution formed was filtered on carbon black and then the base was precipitated by the addition of 20% ammonia. The resulting crystals were dried off, washed with water, dried and purified by passing over hydrochloride (M.P.: 228°-230° C.) followed by transformation into a base by treatment with 20% ammonia. 131 g of N-(1-allyl-2-pyrrolidylmethyl)-7-sulfamoyl-1,4-benzodioxane-5-carboxamide was produced (M.P.: 143°-144° C.; yield: 64.8%). The structure was confirmed by nuclear magnetic resonance.

reactant | methyl-7-sulfamoyl-1,4-benzodioxane-5-carboxylate | 145 g | COC(=O)C1=CC(=CC=2OCCOC21)S(N)(=O)=O | C10H11NO6S
reactant | 1-allyl-2-aminomethylpyrrolidine | 89 g | C(C=C)N1C(CCC1)CN | C8H16N2
reactant | acetate | C(C)(=O)[O-]
solvent | water | 1 liter | O | H2O
solvent | water | 48 g | O | H2O
product | N-(1-allyl-2-pyrrolidylmethyl)-7-sulfamoyl-1,4-benzodioxane-5-carboxamide | 131 g, yield: 64.8% | C(C=C)N1C(CCC1)CNC(=O)C1=CC(=CC=2OCCOC21)S(N)(=O)=O | C17H23N3O5S
